US07199105B2
Preparation of 1-(2-Hydroxy-ethyl)-4-(3-methyl-butyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
Ethylene oxide (0.6 mL) was added to a solution of 4-(3-methyl-butyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide (35.1 mg, 0.084 mmol), prepared as in Example 9, in methanol (3 mL), at 0° C. The reaction mixture was stirred at 4° C. overnight. Additional ethylene oxide (0.6 mL) was added and stirred at 4° C. overnight. The reaction mixture was concentrated and purified by chromatography to give the title compound as a white solid (24.1 mg, 62%).

reactant | Ethylene oxide | 0.6 mL | C1CO1 | C2H4O
reactant | 4-(3-methyl-butyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 0.084 mmol, 35.1 mg | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCC(C1)CCC(C)C)C | C20H38N2O5S
reactant | ethylene oxide | 0.6 mL | C1CO1 | C2H4O
solvent | methanol | 3 mL | CO | CH4O
product | 1-(2-Hydroxy-ethyl)-4-(3-methyl-butyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 24.1 mg, 62% | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CC(C1)CCC(C)C)CCO)C | C22H42N2O6S
